US05728712
Intermediate 5 3-Methanesulphonyloxy-4-methoxybenzenesulphonyl chloride
A solution of 2-(methanesulphonyloxy)methoxybenzene (0.822 g) in dichloromethane (15 ml) was stirred and cooled to -10° C. under a nitrogen atmosphere. A solution of chlorosulphonic acid (0.27 ml) in dichloromethane (5 ml) was then added dropwise over a period of 1 hour, maintaining the temperature below 0° C. The mixture was stirred for a further 4 hours, allowing the temperature to rise to 10° C. The mixture was evaporated to dryness in vacuo to yield an oil which was suspended in toluene (20 ml) with stirring under a nitrogen atmosphere. Oxalyl chloride (0.36 ml) was added dropwise, followed by the addition of DMF (5 drops). After stirring for 2 hours at room temperature, dichloromethane (15 ml) and oxalyl chloride (0.36 ml) were added and the reaction stirred overnight. The solvent was evaporated in vacuo and the residue was purified by column chromatography on silica, eluting with 60% ethyl acetate in hexane to furnish the title compound (0.99 g) as a white crystalline solid.

reactant | 2-(methanesulphonyloxy)methoxybenzene | 0.822 g | CS(=O)(=O)OCOC1=CC=CC=C1 | C8H10O4S
reactant | chlorosulphonic acid | 0.27 ml | ClS(=O)(=O)O | ClHO3S
reactant | Oxalyl chloride | 0.36 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | oxalyl chloride | 0.36 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | DMF | 5 drops | CN(C)C=O | C3H7NO
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 3-Methanesulphonyloxy-4-methoxybenzenesulphonyl chloride | 0.99 g | CS(=O)(=O)OC=1C=C(C=CC1OC)S(=O)(=O)Cl | C8H9ClO6S2
